US07547680B2
2-Chloro-1-(β-D-ribofuranosyl)-1H-benzimidazole
2-Chloro-1-(2,3,5-tri-O-acetyl-β-D-ribofuranosyl)-1H-benzimidazole (12.3 g) was dissolved in methanol (150 mL). To the mixture was added 28% sodium methoxide-methanol solution (1 mL), and the mixture was stirred for 1 hour. The reaction mixture was concentrated under reduced pressure to give the title compound (8.5 g).

reactant | 2-Chloro-1-(2,3,5-tri-O-acetyl-β-D-ribofuranosyl)-1H-benzimidazole | 12.3 g | ClC1=NC2=C(N1[C@H]1[C@H](OC(C)=O)[C@H](OC(C)=O)[C@H](O1)COC(C)=O)C=CC=C2 | C18H19ClN2O7
reactant | sodium methoxide methanol | 1 mL | C[O-].[Na+].CO
solvent | methanol | 150 mL | CO | CH4O
product | 2-Chloro-1-(β-D-ribofuranosyl)-1H-benzimidazole | 8.5 g | ClC1=NC2=C(N1[C@H]1[C@H](O)[C@H](O)[C@H](O1)CO)C=CC=C2 | C12H13ClN2O4
